US06110903
To a cold (0° C.) solution of 1.0 mmol of 4-amino-7-(4-hydroxybutyl)-5-fluoro-1-isobutyl-2-(2-diethylphosphono-5-furanyl)benzimidazole in 20 mL of CH2Cl2 was added 3.0 mmol of PPh3 and 3.0 mmol of CBr4. After 40 min. at room temperature solvent was removed and the residue was subjected to chromatography to give 4-amino-7-(4-bromobutyl)-5-fluoro-1-isobutyl-2-(2-diethylphosphono-5-furanyl)benzimidazole. CCl4 gave the corrosponding chloro compound.

reactant | 4-amino-7-(4-hydroxybutyl)-5-fluoro-1-isobutyl-2-(2-diethylphosphono-5-furanyl)benzimidazole | 1.0 mmol | NC1=C(C=C(C=2N(C(=NC21)C2=CC=C(O2)P(=O)(OCC)OCC)CC(C)C)CCCCO)F | C23H33FN3O5P
reactant | PPh3 | 3.0 mmol | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | CBr4 | 3.0 mmol | C(Br)(Br)(Br)Br | CBr4
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 4-amino-7-(4-bromobutyl)-5-fluoro-1-isobutyl-2-(2-diethylphosphono-5-furanyl)benzimidazole | NC1=C(C=C(C=2N(C(=NC21)C2=CC=C(O2)P(=O)(OCC)OCC)CC(C)C)CCCCBr)F | C23H32BrFN3O4P
